US07553842B2
(R)-5-(Hydroxymethyl)-dihydrofuran-2(3H)-one (0.500 g, 4.31 mmol) was dissolved in methylene chloride (10 mL), treated with 2,6-dimethylpyridine (1.50 ml, 12.9 mmol) then cooled to 0° C. Triflic anhydride (0.869 mL, 5.17 mmol) was added and the reaction mixture was stirred at 0° C. for 2 hours. The reaction mixture was poured into 10% KHSO4 and separated. The organic layer was washed twice with 10% KHSO4, once with water, 3 times with 6% NaHCO3, then dried over Na2SO4 and concentrated in vacuo to provide (R)-(5-oxo-tetrahydrofuran-2-yl)methyl trifluoromethanesulfonate.

reactant | (R)-5-(Hydroxymethyl)-dihydrofuran-2(3H)-one | 4.31 mmol, 0.500 g | OC[C@H]1CCC(O1)=O | C5H8O3
reactant | 2,6-dimethylpyridine | 12.9 mmol, 1.50 ml | CC1=NC(=CC=C1)C | C7H9N
reactant | Triflic anhydride | 5.17 mmol, 0.869 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-(5-oxo-tetrahydrofuran-2-yl)methyl trifluoromethanesulfonate | FC(S(=O)(=O)OC[C@@H]1OC(CC1)=O)(F)F | C6H7F3O5S
